* source I-PBFILTER-01
R_R2         0 TEST  1T TC=0,0 
I_I1         TEST 0 DC 0Adc AC 0Aac
+PULSE 0 1m 1.5p 3p 7p 0 0
V_V4         N18503 0 2.5
C_C2         N18748 N15297  1p  TC=0,0 
M_M6         N15202 N14642 N15404 0 NMOS  
+ L=1.5u  
+ W=10u         
M_M1         N14636 N29033 N14698 0 NMOS  
+ L=1.5u  
+ W=10u         
I_I2         TEST 0 DC 0Adc AC 0Aac
+PULSE 0 .3m 1.5p 1p 130p 9p 0
M_M7         N15297 N15202 TEST TEST PMOS  
+ L=1.5u  
+ W=20u         
V_V5         N18581 0 1.3
M_M2         N14642 N14636 TEST TEST PMOS  
+ L=1.5u  
+ W=20u         
M_M8         N15404 N18581 0 0 NMOS  
+ L=1.5u  
+ W=4.5u         
V_V1         TEST 0 5
M_M9         N15297 N15297 N15404 0 NMOS  
+ L=1.5u  
+ W=10u         
M_M3         N14698 N18832 0 0 NMOS  
+ L=1.5u  
+ W=4.5u         
M_M10         N15202 N15202 TEST TEST PMOS  
+ L=1.5u  
+ W=20u         
V_V3         N18832 0 1.3
V_V6         N18748 0 2.5
M_M4         N14642 N15297 N14698 0 NMOS  
+ L=1.5u  
+ W=10u         
V_V8         N29033 0 DC 4.5 AC 1m 
C_C1         N18503 N14642  100p  TC=0,0 
M_M5         N14636 N14636 TEST TEST PMOS  
+ L=1.5u  
+ W=20u         
